US06552188B2
Synthesis of N-[4-(3,4,5-trimethoxyphenyl)benzoyl]-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine
1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine (103 mg) was dissolved in dichloromethane (0.9 mL), and a saturated aqueous solution (0.9 mL) of sodium hydrogencarbonate was added to the solution. 4-(3,4,5-Trimethoxyphenyl)benzoyl chloride (55 mg) was then added dropwise to the mixture under ice cooling, and the resultant mixture was stirred for 1 hour. After water was added to the reaction mixture to conduct extraction with chloroform, the resultant organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=50:1) to obtain the title compound as a free base.

reactant | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine | 103 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCNCC1 | C19H25N3O3
reactant | sodium hydrogencarbonate | 0.9 mL | C(O)([O-])=O.[Na+]
reactant | 4-(3,4,5-Trimethoxyphenyl)benzoyl chloride | 55 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)Cl)C=C1 | C16H15ClO4
reactant | water | O | H2O
solvent | dichloromethane | 0.9 mL | ClCCl | CH2Cl2
product | N-[4-(3,4,5-trimethoxyphenyl)benzoyl]-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1 | C35H39N3O7
